US07619108B2
Using a method analogous to Example 1, 212.7 g (1 mol) of chloromethyltriethoxysilane are reacted in the presence of 6.1 g (0.03 mol) of tri-n-butylphosphine and 0.1 g of phenothiazine with 130.4 g (1.05 mol) of potassium methacrylate at 90° C. The reaction is complete 4 hours after all the potassium methacrylate has been introduced. Work-up gives 250.0 g (95%) of methacryloxymethyltriethoxysilane having a purity of 99.0%.

reactant | chloromethyltriethoxysilane | 1 mol, 212.7 g | ClC[Si](OCC)(OCC)OCC | C7H17ClO3Si
reactant | potassium methacrylate | 1.05 mol, 130.4 g | C(C(=C)C)(=O)[O-].[K+]
catalyst | tri-n-butylphosphine | 0.03 mol, 6.1 g | C(CCC)P(CCCC)CCCC | C12H27P
catalyst | phenothiazine | 0.1 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | methacryloxymethyltriethoxysilane | 250.0 g, 95% | C(C(=C)C)(=O)OC[Si](OCC)(OCC)OCC | C11H22O5Si
